US08877744B2
The reaction of (R)-5-[2,4-difluoro-5-(2-methoxy-pyrimidin-5-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (82 mg, 198 μmol) with Lawesson's reagent (80.2 mg, 198 μmol) in 1,4-dioxane (3 ml) yielded the (R)-5-[2,4-difluoro-5-(2-methoxy-pyrimidin-5-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (53 mg, 62% yield) as a white solid. MS (ISP): m/z=430.3 [M+H]+.

reactant | (R)-5-[2,4-difluoro-5-(2-methoxy-pyrimidin-5-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 198 μmol, 82 mg | FC1=C(C=C(C(=C1)F)C=1C=NC(=NC1)OC)[C@]1(NC(COC(C1(F)F)(C)C)=O)C | C19H19F4N3O3
reactant | Lawesson's reagent | 198 μmol, 80.2 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | (R)-5-[2,4-difluoro-5-(2-methoxy-pyrimidin-5-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 53 mg, 62% yield | FC1=C(C=C(C(=C1)F)C=1C=NC(=NC1)OC)[C@]1(NC(COC(C1(F)F)(C)C)=S)C | C19H19F4N3O2S
